US04902698
(b) 4-[5-(Phenylsulphamoyl)pyrid-2-yl)butanoic acid
A solution of methyl 4-[5-(phenylsulphamoyl)pyrid-2-yl]butanoate (0.7 g), 10% w/v sodium hydroxide solution (5 ml) in ethanol (10 ml) was stirred for 1 hour. The solution was acidified with dilute hydrochloric acid (pH=3) and cooled. The precipitate was collected and recrystallised from ethanol to give the title compound as prisms (0.56 g). m.p. 158°-159° C.

reactant | methyl 4-[5-(phenylsulphamoyl)pyrid-2-yl]butanoate | 0.7 g | C1(=CC=CC=C1)NS(=O)(=O)C=1C=CC(=NC1)CCCC(=O)OC | C16H18N2O4S
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | pH=3 | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[5-(Phenylsulphamoyl)pyrid-2-yl)butanoic acid | 0.56 g | C1(=CC=CC=C1)NS(=O)(=O)C=1C=CC(=NC1)CCCC(=O)O | C15H16N2O4S
